US06610723B2
1-(3,4-Dichloro-phenyl)-4-imidazol-1-yl-methyl-1H-pyrazole
Sodium hydride (0.24 g of a 55% dispersion in mineral oil, 5.5 mmol) was slowly added to a solution of imidazole (0.19 g, 2.8 mmol) in DMF (15 ml). After 30 min at 60° C. the mixture was cooled in an ice bath and 4-chloromethyl-1-(3,4-dichloro-phenyl)-1H-pyrazole (0.50 g, 1.9 mmol) was added in one portion. The resulting mixture was stirred for 1 h at 20° C. After evaporation of the solvent the residue was dissolved in AcOEt, washed with H2O, dried (Na2SO4) and chromatographed [silica, elution with gradient CH2Cl2 to 30% (CH2Cl2/MeOH/aq. NH4OH=90:10:1)] to obtain 0.23 g (41%) of the title compound. Mp. 103-104° C. (iPr2O), MS: m/e=293(M+H+)

reactant | Sodium hydride | [H-].[Na+]
reactant | imidazole | 2.8 mmol, 0.19 g | N1C=NC=C1 | C3H4N2
reactant | 4-chloromethyl-1-(3,4-dichloro-phenyl)-1H-pyrazole | 1.9 mmol, 0.50 g | ClCC=1C=NN(C1)C1=CC(=C(C=C1)Cl)Cl | C10H7Cl3N2
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-(3,4-Dichloro-phenyl)-4-imidazol-1-yl-methyl-1H-pyrazole | 0.23 g, 41% | ClC=1C=C(C=CC1Cl)N1N=C(C(=C1)N1C=NC=C1)C | C13H10Cl2N4
